.SUBCKT REF_RIAA in out
R1 N002 N001 3.18k
C1 N002 N001 1u
E1 N001 0 in 0 1
R2 N004 N003 7.5k
C2 N004 N003 10n
E2 N003 0 N002 0 1
R3 0 N002 353.33
R4 0 N004 353.33
E3 out 0 N004 0 1
.ENDS REF_RIAA
